**********
*SRC=MTB75N05H;MTB75N05H;MOSFETs N;Power <=100V;Mot 50V 75A 0.0095ohm 
*SYM=POWMOSN
.SUBCKT MTB75N05H 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  3.51M
RS  40  3  1.24M
RG  20  2  17.9
CGS  2  3  2.37N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  2.95N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=104K THETA=58.1M ETA=2M VTO=3.1 KP=34.9)
.MODEL DCGD D (CJO=2.95N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=311N N=1.5 RS=2.93M BV=50 CJO=3.31N VJ=0.8 M=0.42 TT=57N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=MTB60N06H;MTB60N06H;MOSFETs N;Power <=100V;Mot 60V 60A 0.014ohm 
*SYM=POWMOSN
.SUBCKT MTB60N06H 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  5.65M
RS  40  3  1.35M
RG  20  2  40.1
CGS  2  3  1.8N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  1.89N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=125K THETA=58.1M ETA=2M VTO=3.1 KP=25.8)
.MODEL DCGD D (CJO=1.89N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=249N N=1.5 RS=4M BV=60 CJO=2.21N VJ=0.8 M=0.42 TT=60N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=MTB55N06Z;MTB55N06Z;MOSFETs N;Power <=100V;Mot 60V 55A 0.018ohm 
*SYM=POWMOSN
.SUBCKT MTB55N06Z 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  7.55M
RS  40  3  1.45M
RG  20  2  56.9
CGS  2  3  1.27N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  1.53N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=125K THETA=58.1M ETA=2M VTO=3.1 KP=23.7)
.MODEL DCGD D (CJO=1.53N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=228N N=1.5 RS=3.27M BV=60 CJO=1.72N VJ=0.8 M=0.42 TT=57N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=MTB1306;MTB1306;MOSFETs N;Power <=100V;Mot 30V 75A 0.0065ohm 
*SYM=POWMOSN
.SUBCKT MTB1306  10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  2.09M
RS  40  3  1.16M
RG  20  2  4.47
CGS  2  3  2.17N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  4.96N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=62.5K THETA=80M ETA=2M VTO=1.5 KP=199)
.MODEL DCGD D (CJO=4.96N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=311N N=1.5 RS=0 BV=30 CJO=3.95N VJ=0.8 M=0.42 TT=84N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=IRFR3303;IRFR3303;MOSFETs N;Power <=100V;IR 30V 33A 0.031ohm 
*SYM=POWMOSN
.SUBCKT IRFR3303 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  13.7M
RS  40  3  1.78M
RG  20  2  4.55
CGS  2  3  610P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  1.8N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=62.5K THETA=58.1M ETA=2M VTO=3.1 KP=20)
.MODEL DCGD D (CJO=1.8N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=137N N=1.5 RS=11.1M BV=30 CJO=1.12N VJ=0.8 M=0.42 TT=53N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=IRFZ48NS;IRFZ48NS;MOSFETs N;Power <=100V;IR 55V 64A 0.016ohm 
*SYM=POWMOSN
.SUBCKT IRFZ48NS 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  6.6M
RS  40  3  1.4M
RG  20  2  3.87
CGS  2  3  1.63N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  3.47N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=115K THETA=58.1M ETA=2M VTO=3.1 KP=28.6)
.MODEL DCGD D (CJO=3.47N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=266N N=1.5 RS=5.9M BV=55 CJO=1.51N VJ=0.8 M=0.42 TT=94N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=IRF3205S;IRF3205S;MOSFETs N;Power <=100V;IR 55V 110A 0.008ohm 
*SYM=POWMOSN
.SUBCKT IRF3205S 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  2.8M
RS  40  3  1.2M
RG  20  2  1.36
CGS  2  3  3.52N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  6.16N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=115K THETA=58.1M ETA=2M VTO=3.1 KP=49.1)
.MODEL DCGD D (CJO=6.16N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=457N N=1.5 RS=3.43M BV=55 CJO=3.53N VJ=0.8 M=0.42 TT=110N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
*SRC=IRF1010NS;IRF1010NS;MOSFETs N;Power <=100V;IR 55V 84A 0.011ohm 
*SYM=POWMOSN
.SUBCKT IRF1010NS 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  4.22M
RS  40  3  1.28M
RG  20  2  1.79
CGS  2  3  2.57N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  4.24N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=115K THETA=58.1M ETA=2M VTO=3.1 KP=37.5)
.MODEL DCGD D (CJO=4.24N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=349N N=1.5 RS=4.49M BV=55 CJO=2.37N VJ=0.8 M=0.42 TT=81N)
.MODEL DLIM D (IS=100U)
.ENDS 
**********
