**********
*SRC=TS555M;TS555M;Timers;SGS-Thomson;
*SYM=SGS555
* Standard Linear ICs Macromodels, 1993
* Timer
* 1 NEGATIVE POWER SUPPLY
* 2 TRIGGER
* 3 OUTPUT
* 4 RESET
* 5 CONTROL VOLTAGE
* 6 THRESHOLD
* 7 DISCHARGE
* 8 POSITIVE POWER SUPPLY
* 9 ADJUST & INITIALIZATION
*10 ADJUST
*
.SUBCKT TS555M 1 2 3 4 5 6 7 8 9 10
*
.MODEL MPJR  PMOS VTO=0.0  TOX=90E-09 KP=2.0E-02 LEVEL=3
.MODEL MNJR  NMOS VTO=0.0  TOX=90E-09 KP=2.0E-02 LEVEL=3
.MODEL MNDIS NMOS VTO=1.0  TOX=80E-09 KP=2.0E-02 LEVEL=3
.MODEL MDTH D N=0.7 IS=1E-08
*
RAA 8 5 1E+5
RBB 5 27 1E+5
RCC 27 1 1E+5
IALIM 8 1 94E-06
EALIM 24 1 8 1 1
*  COMPA 1 *
E1H 24 41 24 4 1
D1H 32 41 MDTH
D1B  1 32 MDTH
I1 6 1 10P
G1 1 32 5 6 6E-07
* COMPA 2 *
E2H 24 42 24 4 1
D2H 22 42 MDTH
D2B  1 22 MDTH
I2 2 1 10P
G2 1 22 27 2 6E-07
* R S *
MPH 31 32 24 24 MPJR W=50U  L=6U
MNB 31 22  1  1 MNJR W=100U L=6U
MP1  9 31 24 24 MPJR W=42U  L=6U
MN1  9 31  1  1 MNJR W=26U  L=6U
MP2 31  9 24 24 MPJR W=10U  L=37U
MN2 31  9  1  1 MNJR W=9U   L=40U
* RESET *
RRST 4 1 1E+12
* OUTPUT STAGE *
EOUT 15 1 9 1 1
ROUT 15 3 100
RCHOUT 3 1 1E+12
EMI 10 1 24 1 0.5
EGRILLE 11 1 24 9 1
MDIS 13 11 1 1 MNDIS W=4500U  L=6U
RDIS 13 7 20
RCHDIS 7 1 1E+12
.ENDS
**********
*SRC=TS555H;TS555H;Timers;SGS-Thomson;
*SYM=SGS555
* Standard Linear ICs Macromodels, 1993
* Timer
* 1 NEGATIVE POWER SUPPLY
* 2 TRIGGER
* 3 OUTPUT
* 4 RESET
* 5 CONTROL VOLTAGE
* 6 THRESHOLD
* 7 DISCHARGE
* 8 POSITIVE POWER SUPPLY
* 9 ADJUST & INITIALIZATION
*10 ADJUST
*
.SUBCKT TS555H 1 2 3 4 5 6 7 8 9 10
*
.MODEL MPJR  PMOS VTO=0.0  TOX=3000E-09 KP=2.0E-02 LEVEL=3
.MODEL MNJR  NMOS VTO=0.0  TOX=3000E-09 KP=2.0E-02 LEVEL=3
.MODEL MNDIS NMOS VTO=1.0  TOX=80E-09   KP=2.0E-02 LEVEL=3
.MODEL MDTH D N=0.7  IS=1E-08
*
RAA 8 5 1E+5
RBB 5 27 1E+5
RCC 27 1 1E+5
IALIM 8 1 94E-06
EALIM 24 1 8 1 1
*  COMPA 1 *
E1H 24 41 24 4 1
D1H 32 41 MDTH
D1B  1 32 MDTH
I1 6 1 10P
G1 1 32 5 6 6E-07
* COMPA 2 *
E2H 24 42 24 4 1
D2H 22 42 MDTH
D2B  1 22 MDTH
I2 2 1 10P
G2 1 22 27 2 6E-07
* R S *
MPH 31 32 24 24 MPJR W=50U  L=6U
MNB 31 22  1  1 MNJR W=100U L=6U
MP1  9 31 24 24 MPJR W=42U  L=6U
MN1  9 31  1  1 MNJR W=26U  L=6U
MP2 31  9 24 24 MPJR W=10U  L=37U
MN2 31  9  1  1 MNJR W=9U   L=40U
* RESET *
RRST 4 1 1E+12
* OUTPUT STAGE *
EOUT 15 1 9 1 1
ROUT 15 3 100
RCHOUT 3 1 1E+12
EMI 10 1 24 1 0.5
EGRILLE 11 1 24 9 1
MDIS 13 11 1 1 MNDIS W=4500U  L=6U
RDIS 13 7 20
RCHDIS 7 1 1E+12
.ENDS
**********
*SRC=TS555L;TS555L;Timers;SGS-Thomson;
*SYM=SGS555
* Standard Linear ICs Macromodels, 1993
* Timer
* 1 NEGATIVE POWER SUPPLY
* 2 TRIGGER
* 3 OUTPUT
* 4 RESET
* 5 CONTROL VOLTAGE
* 6 THRESHOLD
* 7 DISCHARGE
* 8 POSITIVE POWER SUPPLY
* 9 ADJUST & INITIALIZATION
*10 ADJUST
*
.SUBCKT TS555L 1 2 3 4 5 6 7 8 9 10
*
.MODEL MPJR  PMOS VTO=0.0  TOX=1E-09  KP=2.0E-02 LEVEL=3
.MODEL MNJR  NMOS VTO=0.0  TOX=1E-09  KP=2.0E-02 LEVEL=3
.MODEL MNDIS NMOS VTO=1.0  TOX=80E-09 KP=2.0E-02 LEVEL=3
.MODEL MDTH D N=0.7 IS=1E-08
*
RAA 8 5 1E+5
RBB 5 27 1E+5
RCC 27 1 1E+5
IALIM 8 1 94E-06
EALIM 24 1 8 1 1
*  COMPA 1 *
E1H 24 41 24 4 1
D1H 32 41 MDTH
D1B  1 32 MDTH
I1 6 1 10P
G1 1 32 5 6 6E-07
* COMPA 2 *
E2H 24 42 24 4 1
D2H 22 42 MDTH
D2B  1 22 MDTH
I2 2 1 10P
G2 1 22 27 2 6E-07
* R S *
MPH 31 32 24 24 MPJR W=50U  L=6U
MNB 31 22  1  1 MNJR W=100U L=6U
MP1  9 31 24 24 MPJR W=42U  L=6U
MN1  9 31  1  1 MNJR W=26U  L=6U
MP2 31  9 24 24 MPJR W=10U  L=37U
MN2 31  9  1  1 MNJR W=9U   L=40U
* RESET *
RRST 4 1 1E+12
* OUTPUT STAGE *
EOUT 15 1 9 1 1
ROUT 15 3 100
RCHOUT 3 1 1E+12
EMI 10 1 24 1 0.5
EGRILLE 11 1 24 9 1
MDIS 13 11 1 1 MNDIS W=4500U  L=6U
RDIS 13 7 20
RCHDIS 7 1 1E+12
.ENDS
**********
